US07105680B1
2-(4,5-dimethoxy-2-hydroxyphenyl)-4-(2-pyridylmethyl)aminomethyl-benzoxazole (F19) was prepared in a similar manner for the preparation of 2-(5-methoxy-2-methoxymethoxyphenyl)-4-(2-pyridylmethyl)aminomethylbenzoxazole (F16) using 4-bromomethyl-2-(4,5-dimethoxy-2-methoxymethoxyphenyl)benzoxazole (F13) (612 mg, 1.59 mmol) instead of 4-bromomethyl-2-(5-methoxy-2-methoxymethoxyphenyl)benzoxazole (F12) in 17% (112 mg); 1H-NMR (500 MHz, CDCl3) δ3.56 (s, 3H), 3.95 (s, 3H), 3.97 (s, 3H), 4.02 (s, 2H), 4.30 (s, 2H), 5.27 (s, 2H), 6.85 (s, 1H), 7.15 (dd, 1H, J=7.5, 5.0 Hz), 7.28 (t, 1H, J=7.5 Hz), 7.33 (d, 1H, J=7.5 Hz), 7.42 (d, 1H, J=7.5 Hz), 7.47 (d, 1H, J=7.5 Hz), 7.64 (m, 2H), 8.55 (d, 1H, J=5.0 Hz).

reactant | 2-(5-methoxy-2-methoxymethoxyphenyl)-4-(2-pyridylmethyl)aminomethylbenzoxazole | COC=1C=CC(=C(C1)C=1OC2=C(N1)C(=CC=C2)CNCC2=NC=CC=C2)OCOC | C23H23N3O4
reactant | 4-bromomethyl-2-(4,5-dimethoxy-2-methoxymethoxyphenyl)benzoxazole | 1.59 mmol, 612 mg | BrCC1=CC=CC2=C1N=C(O2)C2=C(C=C(C(=C2)OC)OC)OCOC | C18H18BrNO5
product | 2-(4,5-dimethoxy-2-hydroxyphenyl)-4-(2-pyridylmethyl)aminomethyl-benzoxazole | COC1=CC(=C(C=C1OC)C=1OC2=C(N1)C(=CC=C2)CNCC2=NC=CC=C2)O | C22H21N3O4
